US07030196B2
A 44: 9-Acetoxy-3,8,10-triethyl-7,8,10-trimethyl-1,5-dioxa-9-azaspiro[5.5]undec-3-ylmethyl stearate (144)
12 g (0.037 mol) of 3,8,10-triethyl-7,8,10-trimethyl-1,5-dioxa-9-azaspiro[5.5]undec-3-ylmethanol (for method of preparation, see U.S. Pat. No. 4,105,626) are dissolved in 40 ml of pyridine and admixed with 11.7 g (0.039 mol) of stearoyl chloride. After stirring for 18 hours at room temperature, the reaction mixture is diluted with 200 ml of water and extracted with 2×50 ml of methyl-t-butylether. After distilling off the solvent, the resulting stearoyl nitroxide is converted by a method analogous to Example A 30 into the compound 144 which is obtained in the form of a colourless oil.

reactant | 3,8,10-triethyl-7,8,10-trimethyl-1,5-dioxa-9-azaspiro[5.5]undec-3-ylmethanol | 0.037 mol, 12 g | C(C)C1(COC2(OC1)C(C(NC(C2)(C)CC)(C)CC)C)CO | C18H35NO3
reactant | stearoyl chloride | 0.039 mol, 11.7 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 200 ml | O | H2O
product | 9-Acetoxy-3,8,10-triethyl-7,8,10-trimethyl-1,5-dioxa-9-azaspiro[5.5]undec-3-ylmethyl stearate | C(CCCCCCCCCCCCCCCCC)(=O)OCC1(COC2(OC1)C(C(N(C(C2)(C)CC)OC(C)=O)(C)CC)C)CC | C38H71NO6
